US07790763B2
b) 3-(3-Trifluoromethyl-phenoxy)-azetidine
44 mg of 10% palladium on charcoal was added to a solution of 0.23 mmol 1-benzhydryl-3-(3-trifluoromethyl-phenoxy)-azetidine in 5 ml acetic acid. The reaction mixture was hydrogenated for 3 hours at room temperature and normal pressure. Filtration and concentration yielded the crude product which was used in the next step without further purification. MS (m/e): 218.2 (M+H+, 100%).

reactant | 1-benzhydryl-3-(3-trifluoromethyl-phenoxy)-azetidine | 0.23 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C23H20F3NO
catalyst | palladium on charcoal | 44 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(3-Trifluoromethyl-phenoxy)-azetidine | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
